US07402595B2
6-chloro-2-(methoxycarbonylmethylamino)-1-oxo-4-(p-tolyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution (5.0 ml) of 6-chloro-1-oxo-4-(p-tolyl)-1H-isochromen-3-carboxylic acid methyl ester and 7-chloro-1-oxo-4-p-tolyl-1H-isochromen-3-carboxylic acid methyl ester (mixture, 270 mg) in methanol were added hydrazinoacetic acid ethyl ester hydrochloride (1.3 g) and sodium methoxide (0.44 g), and the mixture was heated under reflux for 2 hrs. After cooling the reaction mixture, conc. sulfuric acid (0.5 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for 18 hrs. The solvent was removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=8/1-3/2) to give the title compound (85 mg) as colorless crystals. IR (KBr) cm−1: 1748, 1667, 1597, 1514, 1435, 1375, 1229. 1H-NMR (CDCl3) δ: 2.43 (3H, s), 3.62 (3H, s), 3.79 (3H, s), 3.96 (2H, d, J=6.2 Hz), 5.99 (1H, t, J=6.4 Hz), 7.14-7.38 (5H, m), 7.48 (1H, dd, J=2.0, 8.4 Hz), 8.40 (1H, d, J=8.4 Hz). HPLC analysis: purity 97% (4.44 min). MS (APCI+): 415 (M+H), 417.

reactant | 6-chloro-1-oxo-4-(p-tolyl)-1H-isochromen-3-carboxylic acid methyl ester | 5.0 ml | COC(=O)C=1OC(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)Cl)=O | C18H13ClO4
reactant | 7-chloro-1-oxo-4-p-tolyl-1H-isochromen-3-carboxylic acid methyl ester | 270 mg | COC(=O)C=1OC(C2=CC(=CC=C2C1C1=CC=C(C=C1)C)Cl)=O | C18H13ClO4
reactant | hydrazinoacetic acid ethyl ester hydrochloride | 1.3 g | Cl.C(C)OC(CNN)=O
reactant | sodium methoxide | 0.44 g | C[O-].[Na+]
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | 6-chloro-2-(methoxycarbonylmethylamino)-1-oxo-4-(p-tolyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 85 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)Cl)=O)NCC(=O)OC | C21H19ClN2O5
